US07396831B2
(a) 4-Chloro-6-(4-trifluoromethylphenyl)pyrimidine
To a 500-mL, round-bottomed flask was added 4,6-dichloropyrimidine (14 g, 95 mmol, Aldrich), 4-(trifluoromethyl)phenylboronic acid (6.0 g, 32 mmol, Aldrich), acetonitrile (95 mL) and 1 M aq sodium carbonate (95 mL). The mixture was deoxygenated by sparging with N2 for 15 min. The catalyst, Pd(PPh3)4 (1.9 g, 1.6 mmol, Strem), was added and the yellow mixture was heated at 80° C. for 15 h. After cooling to 25° C., the solution was concentrated to remove the acetonitrile. The solution was diluted with aq NaHCO3 and extracted with CH2Cl2. The combined extracts were dried over Na2SO4, filtered and concentrated in vacuo. Purification by silica gel chromatography with gradient from 1.5% to 10% solution of ethyl acetate in hexane afforded the title compound as a white solid. MS (ESI, pos. ion) m/z: 259 (M+1).

reactant | 4,6-dichloropyrimidine | 95 mmol, 14 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 4-(trifluoromethyl)phenylboronic acid | 32 mmol, 6.0 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 1 M, 95 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 1.6 mmol, 1.9 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | acetonitrile | 95 mL | C(C)#N | C2H3N
product | 4-Chloro-6-(4-trifluoromethylphenyl)pyrimidine | ClC1=NC=NC(=C1)C1=CC=C(C=C1)C(F)(F)F | C11H6ClF3N2
